US09303016B2
Synthesis of methyl 2-azatricyclo[3.3.1.13,7]decane-5-carboxylate, intermediate-8
To 2-azatricyclo[3.3.1.13,7]decan-5-ol (Intermediate-7) (1.5 g, 5.9 mmol, 1 eq), 98% formic acid (9 ml) was added drop wise with vigorous gas evolution for over 30 minutes to a rapidly stirred 30% oleum (36 ml) heated to 60° C. Upon completion of this addition, 99% formic acid (9 ml) was slowly added for the next 30 minutes. The reaction mixture was stirred for another 1 hr at 60° C. (monitored by LCMS). The reaction mixture thus formed was then slowly poured into vigorously stirred methanol (75 ml) cooled to 00° C. The mixture was allowed to slowly warm to room temperature while stirring the reaction mixture for 4-5 hrs. The mixture was then concentrated under vacuum. The residue was poured into ice (30 g) and basified with saturated Na2CO3 solution. The aqueous layer was extracted with 5% methanol in DCM (3×100 ml). Combined organic layer was washed with brine and dried over Na2SO4. The organic layer was finally concentrated to get intermediate-8, (550 mg, 50% yield) as an oily mass.

reactant | 2-azatricyclo[3.3.1.13,7]decan-5-ol | 5.9 mmol, 1.5 g, 1 eq | C12NC3CC(CC(C1)C3)(C2)O | C9H15NO
reactant | formic acid | 9 ml | C(=O)O | CH2O2
reactant | oleum | 36 ml | OS(=O)(=O)O.O=S(=O)=O
reactant | formic acid | 9 ml | C(=O)O | CH2O2
reactant | methanol | 75 ml | CO | CH4O
product | methyl 2-azatricyclo[3.3.1.13,7]decane-5-carboxylate | 50% yield | C12NC3CC(CC(C1)C3)(C2)C(=O)OC | C11H17NO2
